* Diode Clipper
V1 P001 0 PULSE(0 1 1m 1u 1u 10m 20m 0) ; input
Rin P002 P001 1000
C1 P002 0 1e-6 ; output:V
DP P002 0 D1N914
DP2 0 P002 D1N914
.model D1N914 D (IS=1e-9 N=1)
.tran 0 50m 0 10u
.meta:include:<wdf_lib_diode_pair.h>
.meta:load:"../../lib/wdf_lib_diode_pair.jai"
.backanno
.end
